US05464796
c) Ethyl (2-bromo-3,4,5,6-tetrafluoro-benzoyl)-acetate
60 g of crude diethyl (2-bromo-3,4,5,6-tetrafluorobenzoyl)-malonate are introduced into 150 ml of water, 0.6 g of 4-toluenesulphonic acid is added and the mixture is heated under reflux for 6 hours. It is extracted with methylene chloride and the extract is washed with water, dried with Na2SO4 and concentrated.

reactant | diethyl (2-bromo-3,4,5,6-tetrafluorobenzoyl)-malonate | 60 g | BrC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C(=C(C(=C1F)F)F)F | C14H11BrF4O5
reactant | 4-toluenesulphonic acid | 0.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 150 ml | O | H2O
product | Ethyl (2-bromo-3,4,5,6-tetrafluoro-benzoyl)-acetate | BrC1=C(C(=O)CC(=O)OCC)C(=C(C(=C1F)F)F)F | C11H7BrF4O3
